US06534542B2
Commercially available cyclohexanone was converted to (2-chlorocyclohex-1-enyl)carboxaldehyde according to General Procedure E. Sodium borohydride/cerium chloride reduction of the above carboxaldehyde, in accordance with the method described in General Procedure C gave the intermediate (2-chlorocyclohex-1-enyl)-methanol in 46% yield, which was characterized: 1H NMR (CDCl3, 300 MHz) δ=1.61-1.75 (m, 4H), 2.15 (br s, 1H), 2.22-2.27 (m, 2H), 2.33-2.37 (m, 2H), 4.24 (br s, 2H). The title compound was obtained from (2-chloro-cyclohex-1-enyl)methanol according to General Procedure C. Spectroscopic data: 1H NMR (D6 DMSO, 300 MHz) δ=1.52-1.69 (m, 4H), 2.07-2.11 (m, 2H), 2.28-2.35 (m, 2H), 3.48 (br s, 4H), 4.22 (br s, 2H), 4.76 (s, 1H), 7.41 (s, 1H), 7.54 (s, 1H).

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | (2-chlorocyclohex-1-enyl)carboxaldehyde | C1CCC(=C(C1)C=O)Cl | C7H9ClO
reactant | Sodium borohydride cerium chloride | [BH4-].[Na+].[Cl-].[Ce+3].[Cl-].[Cl-]
product | (2-chlorocyclohex-1-enyl)-methanol | 46% yield | ClC1=C(CCCC1)CO | C7H11ClO
